US07897593B2
8-(5-Fluoro-2-methylphenylsulfonyl)-1,4-dioxa-8-azaspiro[4.5]decane.
A stirred solution of 1,4-dioxa-8-azaspiro[4,5]decane (10.73 g, 75 mmol) and Et3N (8 mL, 57 mmol) in THF (150 mL) was cooled in an ice-water bath. To this mixture was slowly added 5-fluoro-2-methylbenzenesulfonyl chloride (10.5 g, 50.33 mmol) and stirred for 1 h and then cold bath was removed. After 15 h at room temperature, the reaction mixture was diluted with ether (200 mL), washed with 1N aq. HCl (2×50 mL), brine (50 mL), dried (Na2SO4), filtered and concentrated to give product as an off-white solid 15.9 g, 100%). 1H NMR (500 MHz, CDCl3) δ: 7.61 (1H, dd, J=8.6, 2.8 Hz), 7.28-7.26 (1H, m), 7.15 (1H, td, J=8.1, 2.8 Hz), 3.94 (4H, s), 3.35-3.32 (4H, m), 2.57 (3H, s), 1.78-1.76 (4H, m). HRMS (M+H) calcd for C14H19FNO4S: 316.1019; found: 316.1013.

reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 75 mmol, 10.73 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | Et3N | 57 mmol, 8 mL | CCN(CC)CC | C6H15N
reactant | 5-fluoro-2-methylbenzenesulfonyl chloride | 50.33 mmol, 10.5 g | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 8-(5-Fluoro-2-methylphenylsulfonyl)-1,4-dioxa-8-azaspiro[4.5]decane | 15.9 g, 100% | FC=1C=CC(=C(C1)S(=O)(=O)N1CCC2(OCCO2)CC1)C | C14H18FNO4S
